US09302986B2
To a stirring solution of oxalyl chloride (13.6 mL, 0.16 mol) in dry CH2Cl2 (150 mL) at −78° C. under N2 was added DMSO (15.2 mL, 0.21 mol) dropwise over 30 min. After complete addition the resulting solution was stirred at −78° C. for 1 h. A solution of tert-butyl 3-(tert-butyldimethyl-silyloxy)-2-hydroxypropylcarbamate (32.6 g, 0.11 mol) in CH2Cl2 (50 mL) was then added dropwise over 20 min. Stirring was continued for a further 1 hour at which time triethylamine (59.6 mL, 0.43 mol) was added. The cooling bath was removed and the reaction mixture was allowed to warm to room temperature. The reaction mixture was partitioned between water (100 mL) and CH2Cl2 (70 mL) and the aqueous layer was extracted with further CH2Cl2 (2×70 mL); the combined organics were dried over Na2SO4 and concentrated under a stream of nitrogen gas. The crude residue was purified over silica gel eluting with 5% ethylacetate in n-hexane to give tert-butyl 3-(tert-butyldimethylsilyloxy)-2-oxopropylcarbamate (29.8 g, 92%) as a pale yellow oil. 1H-NMR (300 MHz; CDCl3) δ ppm: 0.11 (6H, s), 0.94 (9H, s), 1.47 (9H, s), 3.92 (2H, s), 4.26 (2H, d, J 4.6 Hz), 5.22 (1H, br s).

reactant | oxalyl chloride | 0.16 mol, 13.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.21 mol, 15.2 mL | CS(=O)C | C2H6OS
reactant | tert-butyl 3-(tert-butyldimethyl-silyloxy)-2-hydroxypropylcarbamate | 0.11 mol, 32.6 g | C(C)(C)(C)[Si](OCC(CNC(OC(C)(C)C)=O)O)(C)C | C14H31NO4Si
reactant | triethylamine | 0.43 mol, 59.6 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(tert-butyldimethylsilyloxy)-2-oxopropylcarbamate | 29.8 g, 92% | [Si](C)(C)(C(C)(C)C)OCC(CNC(OC(C)(C)C)=O)=O | C14H29NO4Si
